Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Chest pain, fevers
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  Mr. ___ is a ___ y/o man with
history of CAD s/p PCI who is presenting with chest pain,
abdominal cramping, and fevers.

He reports that he developed mild nonexertional substernal chest
pain the night prior to admission. On the morning of admission,
his chest pain was mildly worse to ___ and radiated to his left
shoulder and arm. He states that feels like his prior episodes 
of
chest pain that required stenting. He denies any associated
shortness of breath, palpitations, diaphoresis. 

He also reports that beginning on the day of admission he
developed cramping abdominal pain, nausea, and fevers. He denies
any vomiting. No diarrhea or constipation. He does note that an
area on his left lower leg/ankle has become red and hot in the
last few days. He does not recall any injury. He otherwise 
denies
any rashes or arthralgias. He returned from travel in ___
about 3 weeks prior, but had been feeling well until the day
prior to admission.

In the ED, initial VS were: 101.3 104 135/72 18 98% RA 
Exam notable for: "Benign"  
ECG: Sinus tachycardia at 104 bpm, NA/NI, STD in I, II, AVF;
V3-V6
Labs showed: WBC 29.7 H/H 12.6/38.3, plt 268, BUN/Cr ___ 
trop
<0.01 x2, MB 2; phos 2.0; UA bland, influenza negative 
Imaging showed:
- CXR: No acute intrathoracic process.  
- CTA Chest: 
1. No pulmonary embolism or other acute process in the chest. 
2. Prominent main pulmonary artery, correlate for pulmonary
arterial hypertension. 
3. Segment 8 liver lesion with peripheral nodular enhancement,
likely 
representing a hemangioma. 

Consults: None  

Patient received:  
___ 18:35 PO Acetaminophen 1000 mg  
___ 19:29 IVF  LR ( 1000 mL ordered)  
___ 22:46 IVF  LR 500 mL
___ 22:46 PO Benzonatate 100 mg  
___ 01:00 IV Piperacillin-Tazobactam 4.5 g
___ 02:24 IV Vancomycin 1000 mg

On arrival to the floor, patient reports that he has mild
abdominal cramping and nausea. He otherwise denies any chest
pain, and states that he last experienced this chest pain while
in the ED, and it lasted about 10 minutes and then 
self-resolved.
No shortness of breath. He has a dry cough that he has had for
several weeks and is improving. No other complaints at this 
time.
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 
Past Medical History:
- Hypertension  
- Dyslipidemia    
- CAD with cath ___ status post resolute overlapping stents
to OM2 and positive nuc ETT with 99% LAD s/p PCI ___
- GERD
- Anxiety 
- Spinal stenosis
 
Social History:
___
Family History:
His father had an MI at age ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 99.7 150 / 71 111 18 97 Ra  
GENERAL: Lying in bed, in NAD  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM  
NECK: No JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: BS+, soft, NTND
EXTREMITIES: No peripheral edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: Left medial shin with ulcer with scab and surrounding
warmth and erythema

DISCHARGE PHYSICAL EXAM
___ 1156 Temp: 97.8 PO BP: 97/58 Lying HR: 68 RR: 18 O2 
sat:
95% O2 delivery: Ra   
GENERAL: Lying in bed, in NAD  
HEENT: PERRL, anicteric sclera, pink conjunctiva, MMM  
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, trace diffuse expiratory wheezing, no rales, 
rhonchi
ABDOMEN: soft, NTND, no rebound or guarding
EXTREMITIES: WWP
SKIN: Left medial distal shin with closed lesion and overlying
scab with surrounding TTP, warmth and erythema extending to L
medial foot with TTP. area improved from previous
 
 
Pertinent Results:
ADMISSION LABS
========================
___ 06:10PM BLOOD WBC-29.7* RBC-4.22* Hgb-12.6* Hct-38.3* 
MCV-91 MCH-29.9 MCHC-32.9 RDW-12.9 RDWSD-41.9 Plt ___
___ 06:10PM BLOOD Glucose-125* UreaN-29* Creat-1.0 Na-135 
K-4.6 Cl-98 HCO3-23 AnGap-14
___ 06:10PM BLOOD ALT-27 AST-26 CK(CPK)-146 AlkPhos-83 
TotBili-0.5
___ 06:10PM BLOOD Albumin-4.5 Calcium-9.6 Phos-2.0* Mg-1.9
___ 06:45PM BLOOD D-Dimer-216

DISCHARGE LABS
=====================
___ 07:10AM BLOOD WBC-13.1* RBC-3.65* Hgb-10.8* Hct-33.7* 
MCV-92 MCH-29.6 MCHC-32.0 RDW-13.5 RDWSD-46.0 Plt ___

IMAGING
==================
___ (AP, MORTISE & LA IMPRESSION: 
 
Moderate soft tissue swelling of the medial ankle.  No 
radiographic evidence specific for osteomyelitis.

___ CHEST IMPRESSION:
 
1. No pulmonary embolism or other acute process in the chest.
2. Prominent main pulmonary artery, correlate for pulmonary 
arterial
hypertension.
3. Segment 8 liver lesion with peripheral nodular enhancement, 
likely
representing a hemangioma.

___ (PA & LAT) IMPRESSION: 
No acute intrathoracic process.

PERTINENT LABS
================
___ 07:10AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 12:45AM BLOOD cTropnT-<0.01
___ 06:10PM BLOOD cTropnT-<0.01
___ 06:10PM BLOOD CK-MB-2
___ 07:10AM BLOOD CRP-159.0*
___ 07:05PM BLOOD Lactate-1.7

MICROBIOLOGY
========================
_______________________________________________________
___ 10:05 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 7:10 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 8:55 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
__________________________________________________________
___ 6:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 6:45 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
Brief Hospital Course:
Outpatient Providers:Mr. ___ is a ___ y/o man with 
history of CAD s/p PCI who presented with chest pain, abdominal 
cramping, and fevers found to have soft tissue infection over L 
distal medial leg.

# Sepsis in setting of soft tissue infection. Patient presented 
with fever to 101.3, tachycardia with HR 100's, leukocytosis 
with neutrophilic predominance. Workup for pneumonia and UTI 
negative. Patient with erythema of left ankle consistent with 
soft tissue infection/cellulitis . CRP elevated at 160; ESR 
elevated at 33, however plain film of left lower extremity shows 
no evidence of osteomyelitis. Pt received IV vancomycin 
transitioned to PO Bactrim and Keflex, with improvement in 
symptoms with plan for total 7 day course to end on ___. 
Patient remained afebrile for 24 hours prior to discharge, blood 
cultures pending at discharge.

# CAD s/p PCI:
# Chest pain-resolved: Patient presented with several episodes 
of nonexertional angina in setting of acute illness as above. 
CTA chest without PE. Initial admission EKG with new ST 
depression in anterior leads, however no ST depression observed 
on repeat EKG. Cardiac biomarkers <0.01 x3, no further chest 
pain. Continued home ASA/Plavix/statin. Beta blocker dose 
decreased as below.

# Hypertension: BPs 100s/60s, orthostatics negative and patient 
asymptomatic. Holding home amlodipine and reduced carvedilol 
given soft BP. Negative orthostatics. Continued home eplerenone, 
Benazepril NF. Home Lasix restarted at discharge.

# HLD:
- Continued home atorvastatin
# GERD:
- Continued home pantoprazole
# Anxiety:
- Continued home buspirone, citalopram
# Spinal stenosis:
- Continued home baclofen as needed

Transitional Issues:
===================================
[] CTA (___) showed incidental Segment 8 liver lesion 
with peripheral nodular enhancement, likely representing a 
hemangioma. 
[] Patient's home amlodipine was held and home carvedilol dose 
was reduced. Please follow patient's BP and readjust BP meds as 
needed.
[] Keflex/Cephalexin and Bactrim last day ___ for total 7 
day course.
[] Please check chemistry panel on ___ as increased risk of 
hyperkalemia with contaminant Bactrim and ACEI.
[] Follow up blood cultures, which were negative x48 hours at 
time of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. BusPIRone 10 mg PO BID 
5. Carvedilol 6.25 mg PO BID 
6. Citalopram 10 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Loratadine 10 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Pantoprazole 40 mg PO Q24H 
12. Glucosamine (glucosamine sulfate) 500 mg oral Sometimes 
13. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
14. benazepril 40 mg oral DAILY 
15. Furosemide 20 mg PO EVERY OTHER DAY 
16. Baclofen 10 mg PO BID:PRN Muscle Spasms 
17. Eplerenone 25 mg PO DAILY 
18. Fluticasone Propionate 110mcg 1 PUFF IH BID 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 6 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*22 Capsule Refills:*0 
2.  Sulfameth/Trimethoprim DS 2 TAB PO BID Duration: 6 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 2 
tablet(s) by mouth twice a day Disp #*22 Tablet Refills:*0 
3.  Carvedilol 3.125 mg PO BID 
RX *carvedilol 3.125 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Baclofen 10 mg PO BID:PRN Muscle Spasms  
7.  benazepril 40 mg oral DAILY  
8.  BusPIRone 10 mg PO BID  
9.  Citalopram 10 mg PO DAILY  
10.  Clopidogrel 75 mg PO DAILY  
11.  Docusate Sodium 100 mg PO BID  
12.  Eplerenone 25 mg PO DAILY  
13.  Fluticasone Propionate 110mcg 1 PUFF IH BID  
14.  Furosemide 20 mg PO EVERY OTHER DAY  
15.  Glucosamine (glucosamine sulfate) 500 mg oral Sometimes  
16.  Loratadine 10 mg PO DAILY  
17.  Multivitamins 1 TAB PO DAILY  
18.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
19.  Pantoprazole 40 mg PO Q24H  
20. HELD- amLODIPine 10 mg PO DAILY  This medication was held. 
Do not restart amLODIPine until approved by your PCP or 
cardiologist.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sepsis in setting of soft tissue infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You were here because you did not feel well and you had chest 
pain and fevers.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You received antibiotics to treat the infection on your leg.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
 - We held your daily amlodipine and your dose of carvedilol was 
cut in half. Please check your blood pressure at home daily. 
Your primary care doctor or cardiologist may need to re-adjust 
the dose of these medications.
- Please continue to take antibiotics to treat your infection: 
Keflex/Cephalexin and Bactrim (also known as Sulfamethoxazole/ 
Trimethoprim). The last day for both of these antibiotics is 
___.

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___